US07691882B2
5-Fluoro-2-(2-fluoro-4-(2-nitro-ethyl)-phenoxymethyl)-pyridine
To an acetic acid (8.00 mL) solution of 3-fluoro-4-(5-fluoro-pyridin-2-ylmethoxy)-benzaldehyde (629 mg, 2.52 mmol) described in Manufacturing Example 94-1-1 were added nitromethane (769 mg, 12.6 mmol) and ammonium acetate (388 mg, 5.04 mmol) under nitrogen atmosphere at room temperature, which was stirred for 6 hours at 100° C. Water and ethyl acetate were added to the reaction solution, and the organic layer was extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure to obtain a crude product (736 mg). To a dimethyl sulfoxide (10.0 mL) solution of this crude product (736 mg) and acetic acid (700 μL) was added sodium borohydride (153 mg, 4.03 mmol) at room temperature while cooling appropriately, which was stirred for 30 minutes at room temperature. Water was then added dropwise at room temperature while cooling appropriately. The reaction mixture was extracted with ethyl acetate, and the organic layer was washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:5) to obtain the title compound (341 mg, 46.0%).

reactant | 3-fluoro-4-(5-fluoro-pyridin-2-ylmethoxy)-benzaldehyde | 2.52 mmol, 629 mg | FC=1C=C(C=O)C=CC1OCC1=NC=C(C=C1)F | C13H9F2NO2
reactant | nitromethane | 12.6 mmol, 769 mg | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 5.04 mmol, 388 mg | C(C)(=O)[O-].[NH4+]
reactant | sodium borohydride | 4.03 mmol, 153 mg | [BH4-].[Na+]
solvent | Water | O | H2O
solvent | acetic acid | 700 μL | C(C)(=O)O | C2H4O2
solvent | dimethyl sulfoxide | 10.0 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 8.00 mL | C(C)(=O)O | C2H4O2
product | 5-Fluoro-2-(2-fluoro-4-(2-nitro-ethyl)-phenoxymethyl)-pyridine | 341 mg, 46.0% | FC=1C=CC(=NC1)COC1=C(C=C(C=C1)CC[N+](=O)[O-])F | C14H12F2N2O3
